Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain, Small Bowel Obstruction
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ history of multiple abdominal surgeries, SBO x3. renal 
disease, A. fib on Coumadin, presents with 12 hours of abdominal 
pain ___, multiple episodes of emesis. She reports that she is 
not currently passing flatus, and last was passing flatus this 
morning; her last bowel movement was ___. CT abd pelvis 
concerning for SBO with transition point. Vitals within normal 
limits, WBC 7.6, lactate 3.8. ACS was consulted for management.
 
Past Medical History:
Afib, on coumadin
Multiple SBOs ___ GSW, managed conservatively
Osteoarthritis
Cerebrovascular disease
Diabetes
HTN
diastolic CHF, lasix dependence (last ECHO ___
CKD III (baseline Cr 1.3)
Gout
OSA, on CPAP
Colonic polyps s/p excision
Diverticulosis
Hemorrhoids
OA of L knee
Morbid obesity

Surgical History: (per Atrius records)
Abd GSW s/p ex-lap ex-lap (___)
TAH with BSO
R TKR (___)
Cataract surgery
 
Social History:
___
Family History:
Daughter died of ___ Cancer in her ___.
 
Physical Exam:
PE:97.8 84 116/80 20 98% RA 
GEN: NAD
CV: RRR
PULM: Nonlabored breathing on room air
Abd: Obese, soft, slightly distended, moderately diffusely 
tender to palpation

D/C
Vitals: Stable
GEN: NAD
CV: RRR
PULM: No respiratory distress
Abd: Obese, soft, non distended, no pain with palpation
 
Pertinent Results:
___ 05:15PM   LACTATE-3.8*
___ 05:11PM   WBC-7.6 RBC-5.56* HGB-14.3 HCT-44.4 MCV-80* 
MCH-25.7* MCHC-32.2 RDW-17.2* RDWSD-45.2
___ 05:11PM   cTropnT-<0.01
___ 07:27PM URINE  RBC-2 WBC-12* BACTERIA-NONE YEAST-NONE 
EPI-2 TRANS EPI-<1
 
Brief Hospital Course:
Patient is an ___ with history of multiple SBOs, abd surgery, 
renal disease, afib on coumadin who presented to the ED with 
abdominal pain and emesis consistent with SBO with transition 
point in the anterior low mid abdomen. Patient was treated with 
conservative management, made NPO given IVF and NGT with serial 
abdominal exams. Patient had elevated lactate that decreased on 
serial tests. Over the hospitilization the patient exam improved 
and she was able to tolerate a regular diet.Day of  d/c the 
patient INR was 1.9 and was given a dose of coumadin before 
discharge. 

 
Medications on Admission:
AMLODIPINE - amlodipine 10 mg tablet. 1 tablet(s) by mouth once 
a
day -  (Prescribed by Other Provider)
ATENOLOL - atenolol 100 mg tablet. 1 tablet(s) by mouth once a
day -  (Prescribed by Other Provider)
COLCHICINE [COLCRYS] - Colcrys 0.6 mg tablet. 1 tablet(s) by
mouth once a day -  (Prescribed by Other Provider)
ENALAPRIL MALEATE - enalapril maleate 20 mg tablet. 1 tablet(s)
by mouth three times a day -  (Prescribed by Other Provider)
ERGOCALCIFEROL (VITAMIN D2) - ergocalciferol (vitamin D2) 50,000
unit capsule. 1 capsule(s) by mouth once a day -  (Prescribed by
Other Provider)
FUROSEMIDE - furosemide 20 mg tablet. 1 tablet(s) by mouth 2 
pills in am; 2 pills in pm -  (Prescribed by Other Provider)
TRAMADOL - tramadol 50 mg tablet. 1 tablet(s) by mouth four 
times
a day can take an additional 4x/day for breakthrough pain - 
(Prescribed by Other Provider)
WARFARIN [COUMADIN] - Coumadin 6 mg tablet. 1 tablet(s) by mouth
once a day take as directed per md -  (Prescribed by Other
Provider)
 
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
2,000
unit tablet. 1 tablet(s) by mouth once a day -  (Prescribed by
Other Provider)
MULTIVITAMIN [DAILY MULTIPLE] - Daily Multiple tablet. 1
tablet(s) by mouth once a day -  (Prescribed by Other Provider)
 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Atenolol 100 mg PO DAILY  
3.  Warfarin 5.5 mg PO DAILY Atrial Fibrillation Duration: 1 
Dose  
Patient was told to continue home medications 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small Bowel Obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to ___ for 
abdominal pain and a small bowel obstruction. You are recovering 
well and are now ready for discharge. Please follow the 
instructions below to continue your recovery:

Small Bowel Obstruction 
- Please take diet slowly and as you can tolerate it. Eat 
multiple small meals instead of 3 larger meals. Avoid foods that 
triggered this abdominal pain such as popcorn, vegetables, 
fruits, beans and whole grains (cereal, rice and pasta). Check 
that the foods you are eating are low in fiber (3g or less) 
until your outpatient appointment and further instruction.

- Please follow up with the acute care surgery team in 2 weeks. 
-Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

-Please return to the ED if you experience any new or worsening 
symptoms of abdominal pain or fevers (or any danger signs listed 
below)
 
Followup Instructions:
___